US04521607
N-(6-Methoxy-1,2,3,4-tetrahydro-1-naphthyl)glycine (3.0 g) is suspended in 30 ml of dimethylacetamide, then 3.3 g of 3-acetylthio-2-methylpropionyl chloride is added dropwise with stirring at room temperature, and thereafter stirring is continued at room temperature for 2 hours. The reaction mixture is poured into 200 ml of water, and extracted with 200 ml of ethyl acetate. The extract is washed with 20 ml of 10% hydrochloric acid and with water, and dried over anhydrous sodium sulfate. Ethyl acetate is distilled off under reduced pressure, 10 ml of ethyl ether is added to the residue, and the mixture is allowed to stand at room temperature. Collection of the resulting crystalline precipitate by filtration gives 1.9 g of N-(3-acetylthio-2-methylpropionyl)-N-(6-methoxy-1,2,3,4-tetrahydro-1-naphthyl)glycine as colorless needles. Melting point: 158°-161° C.

reactant | N-(6-Methoxy-1,2,3,4-tetrahydro-1-naphthyl)glycine | 3.0 g | COC=1C=C2CCCC(C2=CC1)NCC(=O)O | C13H17NO3
reactant | 3-acetylthio-2-methylpropionyl chloride | 3.3 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | N-(3-acetylthio-2-methylpropionyl)-N-(6-methoxy-1,2,3,4-tetrahydro-1-naphthyl)glycine | 1.9 g | C(C)(=O)SCC(C(=O)N(CC(=O)O)C1CCCC2=CC(=CC=C12)OC)C | C19H25NO5S
